US07897788B2
5,6,11,12-tetrahydro-dibenzo[b,f]azocine (HNR11R12 for Example 85)
To a suspension of 11,12-dihydro-5H-dibenzo[b,f]azocin-6-one (2.0 g, 8.96 mmol) in dry THF (20 ml) is added dropwise a solution of LiAlH4 (1.0 N in THF, 8.96 ml) over a period of 10 min. After ceasing of gas evolution, the reaction mixture is kept stirring at reflux overnight, then quenched by the addition of water (0.48 ml). The precipitate is filtered off and the filtrate is extracted twice with EtOAc. The combined organic layers are dried over Na2SO4, the solvent is evaporated and the residue recrystallized from boiling hexane to give off white crystals of the title compound (1.35 g) in 72% yield: tR (LC-2) 1.65 min; ESI-MS(+): m/z 210.70 [M+H]+ (calcd 209.29 for C15H15N).

reactant | 11,12-dihydro-5H-dibenzo[b,f]azocin-6-one | 8.96 mmol, 2.0 g | C1=CC=CC=2NC(C3=C(CCC21)C=CC=C3)=O | C15H13NO
reactant | LiAlH4 | 1.0 N, 8.96 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 5,6,11,12-tetrahydro-dibenzo[b,f]azocine | 1.35 g, 72% yield | C1=CC=CC=2NCC3=C(CCC21)C=CC=C3 | C15H15N
